US04657915
A stirred mixture containing 13.5 g of 5-bromo-1,6-naphthyridin-2(1H)-one, 20 g of 3-methyl-1H-1,2,4-triazole and 75 ml of N-methylpyrrolidinone was heated in an oil bath at 170°-180° C. for 18 hours and then cooled to room temperature whereupon a tan solid crystallized out. The mixture was diluted by adding 125 ml of water and the separated solid was collected, washed with water, air-dried and combined with another 1.2 g sample of the same material obtained in another run starting with 2.25 g of 5-bromo-1,6-naphthyridin-2(1H)-one. The combined solids were recrystallized from dimethylformamide and dried in an oven at 95°-100° C. for three days to yield 6.1 g of 5-(3-methyl-1H-1,2,4-triazole-1-yl)-1,6-naphthyridin-2(1H)-one, m.p. >300° C.

reactant | 5-bromo-1,6-naphthyridin-2(1H)-one | 13.5 g | BrC1=C2C=CC(NC2=CC=N1)=O | C8H5BrN2O
reactant | 3-methyl-1H-1,2,4-triazole | 20 g | CC1=NNC=N1 | C3H5N3
reactant | 5-bromo-1,6-naphthyridin-2(1H)-one | 2.25 g | BrC1=C2C=CC(NC2=CC=N1)=O | C8H5BrN2O
solvent | N-methylpyrrolidinone | 75 ml | CN1C(CCC1)=O | C5H9NO
product | 5-(3-methyl-1H-1,2,4-triazole-1-yl)-1,6-naphthyridin-2(1H)-one | 6.1 g | CC1=NN(C=N1)C1=C2C=CC(NC2=CC=N1)=O | C11H9N5O
